US08119805B2
Stage (vi): 2-(3-Bromopropyl)-1-(2-chloro-6-methylphenylsulfonyl)-piperidine
PBr3 (3.8 mmol, 1.5 eq) was added dropwise to a solution of 3-(1-(2-chloro-6-methylphenylsulfonyl)piperidin-2-yl)propan-1-ol (2.53 mmol, 1 eq) in DMF (6 ml) at 0° C. and the mixture was stirred for 30 min. The reaction mixture was diluted with water (20 ml) and extracted with ethyl acetate (2×20 ml). The combined organic phases were washed with water (30 ml) and saturated sodium chloride solution (20 ml), dried over sodium sulfate and concentrated. The crude product was purified by column chromatography (30% ethyl acetate in hexane). Yield: 25%

reactant | PBr3 | 3.8 mmol, 1.5 eq | P(Br)(Br)Br | Br3P
reactant | 3-(1-(2-chloro-6-methylphenylsulfonyl)piperidin-2-yl)propan-1-ol | 2.53 mmol, 1 eq | ClC1=C(C(=CC=C1)C)S(=O)(=O)N1C(CCCC1)CCCO | C15H22ClNO3S
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | 2-(3-Bromopropyl)-1-(2-chloro-6-methylphenylsulfonyl)-piperidine | Yield: 25% | BrCCCC1N(CCCC1)S(=O)(=O)C1=C(C=CC=C1C)Cl | C15H21BrClNO2S
